US06500863B1
N,N-di-(2-methoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, N,N-di-(2-methoxyethyl)-6chloro-2-hydroxy-3-nitrobenzenesulfonamide (100 mg, 0.27mmol) was reduced with hydrogen and 10% Pd/C (50 mg) to form the desired product (80 mg, 87%). 1H NMR (MeOD-d4): δ 6.85 (m, 2H), 3.58 (t, 4H), 3.47 (t, 4H), 3.21 (s, 6H).

reactant | N,N-di-(2-methoxyethyl)-6chloro-2-hydroxy-3-nitrobenzenesulfonamide | 0.27mmol, 100 mg | COCCN(S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O)CCOC | C12H17ClN2O7S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N,N-di-(2-methoxyethyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 80 mg, 87% | COCCN(S(=O)(=O)C1=C(C(=CC=C1Cl)N)O)CCOC | C12H19ClN2O5S
